US07307086B2
(1R,3S)-3-Isopropyl-3-{[7-(trifluoromethyl)-3,4-dihydroisoquinolin-2(1H)-yl]carbonyl}cyclopentanamine
tert-Butyl ((1R,3S)-3-isopropyl-3-{[7-(trifluoromethyl)-3,4-dihydroisoquinolin-2(1H)-yl]carbonyl}cyclopentyl)carbamate (0.80 g, 1.76 mmol) was dissolved in a 4 M solution of HCl in 1,4-dioxane (10 mL). After being stirred for 2 hours, the solution was evaporated in vacuo to give the desired product (0.64 g, 94%) as an HCl salt. MS calculated for C19H25F3N2O: (M+H)+355; found 355.2.

reactant | tert-Butyl ((1R,3S)-3-isopropyl-3-{[7-(trifluoromethyl)-3,4-dihydroisoquinolin-2(1H)-yl]carbonyl}cyclopentyl)carbamate | 1.76 mmol, 0.80 g | C(C)(C)[C@]1(C[C@@H](CC1)NC(OC(C)(C)C)=O)C(=O)N1CC2=CC(=CC=C2CC1)C(F)(F)F | C24H33F3N2O3
solvent | HCl | Cl | ClH
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (1R,3S)-3-Isopropyl-3-{[7-(trifluoromethyl)-3,4-dihydroisoquinolin-2(1H)-yl]carbonyl}cyclopentanamine | 0.64 g, 94% | C(C)(C)[C@]1(C[C@@H](CC1)N)C(=O)N1CC2=CC(=CC=C2CC1)C(F)(F)F | C19H25F3N2O
